US09371280B2
In a manner similar to the method described in Example 14, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1) was reacted with 2-(2-(dimethylamino)ethoxy)ethanol to give 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-(2-dimethylamino-ethoxy)-ethyl ester, hydrochloride. MS (ES+) m/z calcd. for C37H42Cl2F2N4O5: (M+): 731. found: 731.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | 2-(2-(dimethylamino)ethoxy)ethanol | CN(CCOCCO)C | C6H15NO2
product | 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-(2-dimethylamino-ethoxy)-ethyl ester, hydrochloride | Cl.CN(CCOCCOC(C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC)=O)C | InChI=1S/C37H42Cl2F2N4O5.ClH/c1-36(2,3)20-30-37(21-42,25-12-11-23(38)19-27(25)40)31(24-8-7-9-26(39)32(24)41)33(44-30)34(46)43-28-13-10-22(18-29(28)48-6)35(47)50-17-16-49-15-14-45(4)5;/h7-13,18-19,30-31,33,44H,14-17,20H2,1-6H3,(H,43,46);1H/t30-,31-,33+,37-;/m0./s1
